US08487111B2
3-Bromo-1-(2-chloro-4-nitrophenyl)pyridin-2(1H)-one
2.00 g (11.5 mmol) of 3-bromopyridin-2(1H)-one (O, S. Tee, M. Pavent, J. Am. Chem. Soc. 1982, 104, 4142-4146) are dissolved in 40 ml of DMF. The mixture is cooled to 0° C., and 2.04 g (17.2 mmol, 95% strength) of potassium tert-butoxide are added. After about 15 min, the ice bath is removed, and after a further 30 min, 2.22 g (12.6 mmol) of 2-chloro-1-fluoro-4-nitrobenzene are added. The mixture is stirred at RT for 4 h. The mixture is then added to water and extracted three times with ethyl acetate. The combined organic phases are shaken with saturated sodium chloride solution and dried over sodium sulphate. The solvent is removed under reduced pressure, and the residue is suspended in pentane and filtered off with suction. The solid obtained is boiled with cyclohexane/ethyl acetate 10:1. The product is filtered off with suction and washed with cyclohexane/ethyl acetate 10:1. This gives 2.54 g (67% of theory) of the desired compound.

reactant | 3-bromopyridin-2(1H)-one | 11.5 mmol, 2.00 g | BrC=1C(NC=CC1)=O | C5H4BrNO
reactant | potassium tert-butoxide | 17.2 mmol, 2.04 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-1-fluoro-4-nitrobenzene | 12.6 mmol, 2.22 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 3-Bromo-1-(2-chloro-4-nitrophenyl)pyridin-2(1H)-one | BrC=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])Cl)=O | C11H6BrClN2O3
